US09315475B2
Step 3: tert-butyl (2S,5S)-2-[(2-{[N-(tert-butoxycarbonyl)-4-fluoro-β-(4-fluorophenyl)-L-phenylalanyl]amino}-6-fluorophenoxy)methyl]-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholine-4-carboxylate
Phosphorus (V) oxychloride (118 μl, 1.262 mmol) was added to a solution of tert-butyl (2S,5S)-2-[(2-amino-6-fluorophenoxy)methyl]-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholine-4-carboxylate (540 mg, 1.147 mmol) and N-(tert-butoxycarbonyl)-4-fluoro-β-(4-fluorophenyl)-L-phenylalanine (433 mg, 1.147 mmol) in pyridine (5.74 mL) at −15° C. The reaction was stirred for 30 minutes then warmed to 0° C. and stirred for another 1.5 hours. LC/MS at this time only shows pyridine and desired product. The reaction was quenched with a saturated aqueous solution of KH2PO4 and the mixture was extracted with ethyl acetate (3×50 mL). The combined organic fractions were dried over MgSO4, filtered and the solvent was evaporated under reduced pressure to afford the title compound (977 mg, 1.106 mmol, 96% yield) as an off-white foam, MS (ESI): m/z=730.51 (M+H-boc). 94% pure by LC/MS. The material was taken on crude to the next step.

reactant | Phosphorus (V) oxychloride | 1.262 mmol, 118 μl | O(Cl)Cl.[P+5]
reactant | tert-butyl (2S,5S)-2-[(2-amino-6-fluorophenoxy)methyl]-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholine-4-carboxylate | 1.147 mmol, 540 mg | NC1=C(OC[C@@H]2CN([C@@H](CO2)CO[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C)C(=CC=C1)F | C23H39FN2O5Si
reactant | N-(tert-butoxycarbonyl)-4-fluoro-β-(4-fluorophenyl)-L-phenylalanine | 1.147 mmol, 433 mg | C(C)(C)(C)OC(=O)N[C@@H](C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)C(=O)O | C20H21F2NO4
solvent | pyridine | 5.74 mL | N1=CC=CC=C1 | C5H5N
product | tert-butyl (2S,5S)-2-[(2-{[N-(tert-butoxycarbonyl)-4-fluoro-β-(4-fluorophenyl)-L-phenylalanyl]amino}-6-fluorophenoxy)methyl]-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)morpholine-4-carboxylate | C(C)(C)(C)OC(=O)N[C@@H](C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)C(=O)NC1=C(OC[C@@H]2CN([C@@H](CO2)CO[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C)C(=CC=C1)F | C43H58F3N3O8Si
